US07064116B2
3α-Azido-21-bromo-5α-pregnan-20-one
To a solution of 3α-azido-5α-pregnan-20-one (51.5 mg, 0.15 mmol) in absolute ethanol (3 mL) and chloroform (3 mL) was added pyridinium bromide perbromide (143 mg, 0.44 mmol) and the resulting mixture was heated at 50° C. for 45 min. Subsequently the mixture was diluted with dichloromethane and the organic layer was washed with water, brine and dried (Na2SO4). Evaporation of the solvent in vacuo and purification of the residue using flash column chromatography and petroleum ether/ethyl acetate 90/10 as elution solvent afforded the compound named above.

reactant | 3α-azido-5α-pregnan-20-one | 0.15 mmol, 51.5 mg | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H33N3O
reactant | pyridinium bromide perbromide | 0.44 mmol, 143 mg | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3α-Azido-21-bromo-5α-pregnan-20-one | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CBr)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H32BrN3O
